US07157487B2
In xylene (20 ml), 2-chlorobenzoxazole (845 μl, 7.40 mmol) and tert-butyl 4-amino-3-methylphenylacetate (1.26 g, 5.69 mmol) were heated under reflux for 2 hours under stirring. After cooling to room temperature, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was dissolved in chloroform/methanol (9:1, v/v, 100 ml). The resulting solution was washed with water, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (4:1, v/v) eluate fractions, tert-butyl (4-(2-benzoxazolyl)amino-3-methylphenyl)acetate (1.17 g, 61%) was obtained as a yellow amorphous substance.

reactant | 2-chlorobenzoxazole | 7.40 mmol, 845 μl | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | tert-butyl 4-amino-3-methylphenylacetate | 5.69 mmol, 1.26 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)C | C13H19NO2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | tert-butyl (4-(2-benzoxazolyl)amino-3-methylphenyl)acetate | 1.17 g, 61% | O1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)OC(C)(C)C)C | C20H22N2O3
